US08461170B2
N-(4-(4-Aminopiperidin-1-yl)-2-methoxyphenyl)-5-chloro-4-(1H-indol-3-yl)pyrimidin-2-amine
A solution of 3-(2,5-dichloropyrimidin-4-yl)-1H-indole (5.28 g, 20 mmol), 1-(4-amino-3-methoxyphenyl)piperidin-4-amine (4.43 g, 20.00 mmol), and tosic acid (5.71 g, 30.00 mmol) in n-pentanol (40.0 ml) was placed in a round-bottomed flask. The solution was heated at 140° C., and stirred at that temperature for three days. The solvent was removed by concentration in vacuo, and to the residue was added sat. NaHCO3 solution and dichloromethane. The mixture was filtered and the obtained solid was dissolved in a mixture of THF and methanol and pre-absorbed on silica gel (120 g). The mixture was loaded onto silica gel column and eluted with 10% MeOH, 1% NH4OH in DCM. The collected fractions were concentrated, and the residue was triturated in diethyl ether. The collected solid after filtration was triturated in ethanol. Filtration afforded the title compound (3.25 g, 36.2% yield).

reactant | 3-(2,5-dichloropyrimidin-4-yl)-1H-indole | 20 mmol, 5.28 g | ClC1=NC=C(C(=N1)C1=CNC2=CC=CC=C12)Cl | C12H7Cl2N3
reactant | 1-(4-amino-3-methoxyphenyl)piperidin-4-amine | 20.00 mmol, 4.43 g | NC1=C(C=C(C=C1)N1CCC(CC1)N)OC | C12H19N3O
reactant | tosic acid | 30.00 mmol, 5.71 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | n-pentanol | 40.0 ml | C(CCCC)O | C5H12O
product | N-(4-(4-Aminopiperidin-1-yl)-2-methoxyphenyl)-5-chloro-4-(1H-indol-3-yl)pyrimidin-2-amine | 3.25 g, 36.2% yield | NC1CCN(CC1)C1=CC(=C(C=C1)NC1=NC=C(C(=N1)C1=CNC2=CC=CC=C12)Cl)OC | C24H25ClN6O
